US08026356B2
Crude Stavudine (25 g, 96.7% pure, 0.1116 mole), N,N-dimethyl propylene urea (37.5 g, 1.5 parts) are added to isopropanol (50 ml, 2 volumes) and heated to 70-75° C. for dissolution. The obtained solution is stirred for 15 min. at 75° C. and cooled to 6-8° C. The precipitated product is filtered, washed with IPA and dried to give 34.1 g of Stavudine DMPU solvate (86.7%) with a chromatographic purity of 99.91%

reactant | 2′,3′-didehydro-3′-deoxythymidine | 0.1116 mole, 25 g | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H12N2O4
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | Stavudine DMPU | 34.1 g, 86.7% | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CN1CCCN(C1=O)C | InChI=1S/C10H12N2O4.C6H12N2O/c1-6-4-12(10(15)11-9(6)14)8-3-2-7(5-13)16-8;1-7-4-3-5-8(2)6(7)9/h2-4,7-8,13H,5H2,1H3,(H,11,14,15);3-5H2,1-2H3/t7-,8+;/m0./s1
